US08492378B2
1-methyl-6-[5-[[3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazol-2-yl]-1H-benzimidazole
A solution (5 mL) of 1-methyl-1H-benzimidazole-6-carbohydrazide (0.20 g, 1.05 mmol), triethylamine (0.18 mL, 1.26 mmol) and carbon disulfide (0.16 mL, 2.63 mmol) in ethanol was heated under reflux overnight. The reaction mixture was cooled to 0° C., potassium hydroxide (58.9 mg, 1.05 mmol) and 3-(trifluoromethyl)benzyl chloride were added, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/3) to give the title compound (49.9 mg, yield 12%) as colorless crystals.

reactant | 1-methyl-1H-benzimidazole-6-carbohydrazide | 1.05 mmol, 5 mL, 0.20 g | CN1C=NC2=C1C=C(C=C2)C(=O)NN | C9H10N4O
reactant | triethylamine | 1.26 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 2.63 mmol, 0.16 mL | C(=S)=S | CS2
reactant | potassium hydroxide | 1.05 mmol, 58.9 mg | [OH-].[K+]
reactant | 3-(trifluoromethyl)benzyl chloride | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-6-[5-[[3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazol-2-yl]-1H-benzimidazole | 49.9 mg, yield 12% | CN1C=NC2=C1C=C(C=C2)C=2OC(=NN2)SCC2=CC(=CC=C2)C(F)(F)F | C18H13F3N4OS
